US08455665B2
(S)-3-((R)-1-Hydroxy-2-isopropylsulfanylethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester
2-Propanethiol (98.0 μL, 1.1 mmol) was dissolved in THF (250 μL), and the mixture was cooled to 0° C. NaH (12.6 mg, 527 μmol) was slowly added in four portions and the mixture was stirred at room temperature for 10 minutes. (S)—(R)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester (75 mg, 350 μmol) was dissolved in THF (0.1 mL) and added to the mixture. The resulting solution was placed in a microwave reactor for 30 minutes at 100° C., then cooled to room temperature. Hexanes (3×10 mL) was added, followed by water (10 mL). The organic layer was collected, dried over Na2SO4, filtered, and concentrated. The crude product was purified by column chromatography (0-100% EtOAc in hexanes) to yield the title compound as a clear oil (60 mg).

reactant | 2-Propanethiol | 1.1 mmol, 98.0 μL | CC(C)S | C3H8S
reactant | NaH | 527 μmol, 12.6 mg | [H-].[Na+]
reactant | (S)—(R)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester | 350 μmol, 75 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H]1OC1 | C11H19NO3
reactant | water | 10 mL | O | H2O
solvent | THF | 250 μL | C1CCOC1 | C4H8O
solvent | THF | 0.1 mL | C1CCOC1 | C4H8O
product | (S)-3-((R)-1-Hydroxy-2-isopropylsulfanylethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester | 60 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CSC(C)C)O | C14H27NO3S
